US08350084B2
(2R)-2-[[(4-Chlorophenyl)sulfonyl][[2-fluoro-4-(1,2,4-oxadiazol-3-yl)phenyl]methyl]amino]-5,5,5-trifluoropentanamide
(2R)-2-[[(4-Chlorophenyl)sulfonyl][(4-cyano-2-fluorophenyl)methyl]amino]-5,5,5-trifluoropentanamide (399 g) and methanol (1.6 L) were charged to a reactor followed by hydroxylamine (50% solution in water, 93 mL, 1.8 eq). The mixture was heated to 45-50° C. until complete reaction by HPLC (<0.15 relative AP starting material). Water (0.5 L) was charged slowly, keeping the batch temperature between 30-50° C. The batch was allowed to stand until crystallization started and then water (2.7 L) was charged. The batch was cooled to 15-20° C. and filtered. The cake was washed with 2:1 MeOH:water (2 L) and then dried under vacuum at 50° C. to give the title compound as white solid (415 g, 96% yield). 1H NMR (300 MHz, DMSO-d6) δ ppm 1.43-1.64 (m, 1H) 1.77-1.93 (m, 1H) 1.93-2.17 (m, 2H) 4.41 (dd, J=8.48, 6.03 Hz, 1H) 4.60 (d, J=17.14 Hz, 1H) 4.94 (d, J=16.77 Hz, 1H) 5.81-5.98 (m, 2 H) 7.19-7.27 (m, 1H) 7.37-7.47 (m, 2H) 7.52 (d, J=4.14 Hz, 2H) 7.64 (d, J=8.67, Hz, 2H) 7.85 (d, J=8.85 Hz, 2H) 9.71-9.83 (m, 1H). IR (KBr): 3491, 3379, 1680, 1651, 1592, 1433, 1343.

reactant | (2R)-2-[[(4-Chlorophenyl)sulfonyl][(4-cyano-2-fluorophenyl)methyl]amino]-5,5,5-trifluoropentanamide | 399 g | ClC1=CC=C(C=C1)S(=O)(=O)N([C@@H](C(=O)N)CCC(F)(F)F)CC1=C(C=C(C=C1)C#N)F | C19H16ClF4N3O3S
reactant | methanol | 1.6 L | CO | CH4O
reactant | hydroxylamine | 93 mL, 1.8 eq | NO | H3NO
solvent | Water | 0.5 L | O | H2O
product | (2R)-2-[[(4-Chlorophenyl)sulfonyl][[2-fluoro-4-(1,2,4-oxadiazol-3-yl)phenyl]methyl]amino]-5,5,5-trifluoropentanamide | 415 g, 96% yield | ClC1=CC=C(C=C1)S(=O)(=O)N([C@@H](C(=O)N)CCC(F)(F)F)CC1=C(C=C(C=C1)C1=NOC=N1)F | C20H17ClF4N4O4S
